US04797148
5-(3,7-Dichloroquinol-8-yl)-1,3,4-oxadiazol-2-one
12.8 g (50 millimoles) of 3,7-dichloroquinoline- 8-carboxylic hydrazide (compound No. 1) were suspended in 100 ml of dimethoxyethane, 7.9 g (100 millimoles) of pyridine were added and phosgene was then passed in over a period of 4 hours at 25° C. Excess phosgene and the solvent were removed, the residue was stirred into water and the mixture was filtered under suction to give 8.7 g (62%) of a product of melting point of 87° C. (compound No. 33).

reactant | 3,7-dichloroquinoline- 8-carboxylic hydrazide | 50 millimoles, 12.8 g | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C(=O)NN | C10H7Cl2N3O
reactant | pyridine | 100 millimoles, 7.9 g | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
product | 5-(3,7-Dichloroquinol-8-yl)-1,3,4-oxadiazol-2-one | 8.7 g, 62% | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C1=NNC(O1)=O | C11H5Cl2N3O2
